US06831177B1
To a solution of 1.02 g (7.23 mmol) of 1H-1,2,4-triazole-3-carboxylic acid ethyl ester in 6 ml of DMF was added 1.46 g (1.44 mmol) of triethylamine. To the solution was added dropwise with stirring under ice-cooling 1.14 g (7.94 mmol) of dimethylsulfamoyl chloride. The mixture was stirred at room temperature for 8 hours. 30 ml of Water was added thereto and extracted with 20 ml of ethylacetate. The extract was washed with a saturated aqueous solution of sodium hydrogencarbonate and water, dried over Na2SO4 and evaporated under reduced pressure to give an oil. The obtained oil was purified with silica gel chromatography (eluate: hexane/ethylacetate=2:1) to give 1.46 g of 1-dimethylsulfamoyl-1,2,4-triazole-3-carboxylic acid ethyl ester as a white crystal. Yield: 82%.

reactant | 1H-1,2,4-triazole-3-carboxylic acid ethyl ester | 7.23 mmol, 1.02 g | C(C)OC(=O)C1=NNC=N1 | C5H7N3O2
reactant | triethylamine | 1.44 mmol, 1.46 g | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 7.94 mmol, 1.14 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | Water | 30 ml | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 1-dimethylsulfamoyl-1,2,4-triazole-3-carboxylic acid ethyl ester | 1.46 g, Yield: 82% | C(C)OC(=O)C1=NN(C=N1)S(N(C)C)(=O)=O | C7H12N4O4S
